US08633186B2
N-(2-cyano-4-chlorophenyl)sulfamide
Prepared as in Example 77a from 2-amino-5-chlorobenzonitrile and sulfamoyl chloride. 1H NMR (400 MHz, DMSO-d6) 7.3 (S, 2H), 7.54-7.56 (d J=9.2 Hz, 1H). 7.74-7.77 (dd J=8.4 Hz, 2 Hz, 1H), 9.67 (s, 1H).

reactant | 2-amino-5-chlorobenzonitrile | NC1=C(C#N)C=C(C=C1)Cl | C7H5ClN2
reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
product | N-(2-cyano-4-chlorophenyl)sulfamide | C(#N)C1=C(C=CC(=C1)Cl)NS(=O)(=O)N | C7H6ClN3O2S
